US06869967B2
{4-[3,3-Bis-(4-bromo-phenyl)-allyloxy]-3-chloro-phenyl}-acetic acid ethyl ester
A solution of tributylphosphine (955 μl, 3.0 mmol), 3-chloro-4-hydroxyphenylacetic acid ethyl ester (472 mg, 2.2 mmol) and 3,3-bis-(4-bromophenyl)prop-2-en-1-ol (736 mg, 2.0 mmol) in dry THF (15 ml) was stirred at 0-5° C. for 30 min, under a atmosphere of nitrogen. Azodicarboxylic dipiperidide (756 mg, 3.0 mmol) was added the mixture stirred at 0-5° C. for 2 h, and at room temperature over night. The reaction mixture was filtered and the filtrate concentrated in vacuo. The crude product was then purified by column chromatography on silica (eluent graduated from heptane to toluene) to give 1.0 g (89%) of the title compound.

reactant | tributylphosphine | 3.0 mmol, 955 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 3-chloro-4-hydroxyphenylacetic acid ethyl ester | 2.2 mmol, 472 mg | C(C)OC(CC1=CC(=C(C=C1)O)Cl)=O | C10H11ClO3
reactant | 3,3-bis-(4-bromophenyl)prop-2-en-1-ol | 2.0 mmol, 736 mg | BrC1=CC=C(C=C1)C(=CCO)C1=CC=C(C=C1)Br | C15H12Br2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | {4-[3,3-Bis-(4-bromo-phenyl)-allyloxy]-3-chloro-phenyl}-acetic acid ethyl ester | 1.0 g, 89% | C(C)OC(CC1=CC(=C(C=C1)OCC=C(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br)Cl)=O | C25H21Br2ClO3
